US08114865B2
Preparation of 4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoic acid tert-butyl ester
To a solution of 2-amino-4-(4-methyl-piperazin-1-yl)-benzoic acid tert-butyl ester (11.5 g, 39.5 mmol) in dichloromethane (340 mL) were added tetrahydro-pyran-4-one (4.5 mL, 49.3 mmol), trifluoroacetic acid (8.2 mL) and tetramethylammonium triacetoxyborohydride (15.57 g, 59.2 mmol). The mixture was stirred at room temperature for 2 hours then washed with 0.5N hydrochloric acid, with 0.5N NaOH and with a saturated solution of NaHCO3. The organic layer was dried over sodium sulfate and evaporated to dryness affording the title compound as a pale yellow solid (13.3 g, 90% yield).

reactant | 2-amino-4-(4-methyl-piperazin-1-yl)-benzoic acid tert-butyl ester | 39.5 mmol, 11.5 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)N)=O | C16H25N3O2
reactant | tetrahydro-pyran-4-one | 49.3 mmol, 4.5 mL | O1CCC(CC1)=O | C5H8O2
reactant | trifluoroacetic acid | 8.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetramethylammonium triacetoxyborohydride | 59.2 mmol, 15.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
solvent | dichloromethane | 340 mL | ClCCl | CH2Cl2
product | 4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoic acid tert-butyl ester | 13.3 g, 90% yield | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)NC1CCOCC1)=O | C21H33N3O3
